US05861401
5-(N-Benzyloxycarbonyl-N-methylamino)-N-(5-bromo-3-methoxy-2-pyrazinyl)-1-naphthalenesulphonamide (0.40 g) was suspended in 33% hydrobromic acid in acetic acid (5 ml) and the mixture was stirred for 1 hour. Evaporation afforded a yellow residue which was dissolved in water (20 ml), basified to pH 10 with 1N aqueous sodium hydroxide and extracted with ethyl acetate (3×25 ml). The combined organic extracts were dried (MgSO4) and evaporated. The residue was purified by flash chromatography on silica gel (30 g), eluting with a gradient of 20-50% ethyl acetate in hexane, affording 5-(N-benzyl-N-methylamino)-N-(5-bromo-3-methoxy-2-pyrazinyl)-1-naphthalenesulphonamide (0.095 g); 1H NMR (d6 -DMSO): 2.72 (s,3H), 3.90 (s,3H), 4.25 (s,2H), 7.2-7.4 (m,6H), 7.58 (t,1H), 7.68 (t,1H), 7.80 (s,1H), 8.32 (dd,1H), 8.46 (d,1H), 8.64 (d,1H), 11.48 (br,1H); mass spectrum (+ve FAB, methanol/NBA); 513(M+H)+.

reactant | 5-(N-Benzyloxycarbonyl-N-methylamino)-N-(5-bromo-3-methoxy-2-pyrazinyl)-1-naphthalenesulphonamide | 0.40 g | C(C1=CC=CC=C1)OC(=O)N(C)C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC1=NC=C(N=C1OC)Br | C24H21BrN4O5S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | hydrobromic acid | Br | BrH
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
product | 5-(N-benzyl-N-methylamino)-N-(5-bromo-3-methoxy-2-pyrazinyl)-1-naphthalenesulphonamide | 0.095 g | C(C1=CC=CC=C1)N(C)C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC1=NC=C(N=C1OC)Br | C23H21BrN4O3S
